US07777038B2
7.0 g of 8-methoxy-1-(4-methoxycarbonylbenzyl)-2-oxo-1,2,3,4-tetrahydroquinoline-5-carboxaldehyde and 3.25 g of 2,4-thiazolidinedione were suspended in 70 ml of toluene. Ten drops of piperidine and ten drops of acetic acid were added, followed by heating and refluxing for 4 hours. The resultant was allowed to cool to precipitate a solid, and the precipitated solid was collected by filtration and dried, giving 8.0 g (90% yield) of 5-[8-methoxy-1-(4-methoxycarbonylbenzyl)-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethylidene]thiazolidine-2,4-dione as a light yellow powder.

reactant | 8-methoxy-1-(4-methoxycarbonylbenzyl)-2-oxo-1,2,3,4-tetrahydroquinoline-5-carboxaldehyde | 7.0 g | COC1=CC=C(C=2CCC(N(C12)CC1=CC=C(C=C1)C(=O)OC)=O)C=O | C20H19NO5
reactant | 2,4-thiazolidinedione | 3.25 g | S1C(NC(C1)=O)=O | C3H3NO2S
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
catalyst | piperidine | Ten drops | N1CCCCC1 | C5H11N
catalyst | acetic acid | ten drops | C(C)(=O)O | C2H4O2
product | 5-[8-methoxy-1-(4-methoxycarbonylbenzyl)-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethylidene]thiazolidine-2,4-dione | 8.0 g, 90% yield | COC=1C=CC(=C2CCC(N(C12)CC1=CC=C(C=C1)C(=O)OC)=O)C=C1C(NC(S1)=O)=O | C23H20N2O6S
